US08076336B2
1-(5-Bromo-2,3-dimethoxyphenyl)ethanone
5-Bromo-2,3-dimethoxybenzoic acid (2 g) was converted to the benzamide derivative analogously to O3.043, and the latter to the title compound analogously to O2.059. 1.1 g of the title compound were obtained.

reactant | 5-Bromo-2,3-dimethoxybenzoic acid | 2 g | BrC=1C=C(C(=C(C(=O)O)C1)OC)OC | C9H9BrO4
reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
product | 1-(5-Bromo-2,3-dimethoxyphenyl)ethanone | BrC=1C=C(C(=C(C1)C(C)=O)OC)OC | C10H11BrO3
